US08669249B2
Methyl 2-(4-formyl-2-nitrophenoxy)butanoate (190)
Using 4-hydroxy-3-nitrobenzaldehyde as the phenol and methyl-2-bromobutanoate as the alkylating agent in the general procedure of alkylation of substituted 2-nitrophenols gives a clear yellow oil: 1H NMR (DMSO-d6, 400 MHz): δ=9.94 (s, 1H), 8.44 (d, J=2.3 Hz, 1H), 8.13 (dd, J=8.8, 2.0 Hz, 1H), 7.42 (d, J=8.8 Hz, 1H), 5.36 (dd, J=6.6, 4.5 Hz, 1H), 3.70 (s, 3H), 1.88-2.05 (m, 2H), 0.98 ppm (t, J=7.5 Hz, 3H). ESI-MS: m/z 268.2 (M+H)+.

reactant | 4-hydroxy-3-nitrobenzaldehyde | OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H5NO4
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | methyl-2-bromobutanoate | COC(C(CC)Br)=O | C5H9BrO2
product | Methyl 2-(4-formyl-2-nitrophenoxy)butanoate | C(=O)C1=CC(=C(OC(C(=O)OC)CC)C=C1)[N+](=O)[O-] | C12H13NO6
